US05294608
Preparation of tetraethyl 1-aminomethane-1,1-bisphosphonate
17.1 g (35.4 mmol) of tetraethyl N,N-dibenzyl-aminomethane-1,1-bisphosphonate are dissolved in 170 ml of ethanol and 3.4 g of 5% strength Pd/C are added. Hydrogenation is carried out at normal pressure. After absorption of 100 ml of hydrogen, a further 3.4 g of 5% strength Pd/C are added and the hydrogenation is completed at normal pressure and room temperature (reaction time about 16 hours). The catalyst is then filtered off with suction. After removal of the solvent, 10.9 g of crude product are obtained. This is purified on a silica gel column using ethanol as the eluent.

reactant | tetraethyl N,N-dibenzyl-aminomethane-1,1-bisphosphonate | 35.4 mmol, 17.1 g | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)C(P(OCC)(=O)OCC)P(OCC)(=O)OCC | C23H35NO6P2
solvent | ethanol | 170 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | tetraethyl 1-aminomethane-1,1-bisphosphonate | NC(P(OCC)(=O)OCC)P(OCC)(=O)OCC | C9H23NO6P2
